US06982348B2
N-((1RS,2SR)-2-hydroxy-2-(4-phenoxyphenyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide
To a solution of (1RS,2SR)-2-amino-1-(4-phenoxyphenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (206 mg, 0.53 mmol) in acetonitrile (20 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (100 mg, 0.53 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (153 mg, 0.80 mmol) and 1-hydroxy-1H-benzotriazole (81 mg, 0.53 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate-hexane gave the title compound (268 mg, 90%).

reactant | (1RS,2SR)-2-amino-1-(4-phenoxyphenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 0.53 mmol, 206 mg | NC(C(O)C1=CC=C(C=C1)OC1=CC=CC=C1)CC1=CC=C(C=C1)C(F)(F)F | C22H20F3NO2
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 0.53 mmol, 100 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.80 mmol, 153 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 0.53 mmol, 81 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-hydroxy-2-(4-phenoxyphenyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxamide | 268 mg, 90% | OC(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)C2=CC=C(C=C2)OC2=CC=CC=C2 | C34H30F3NO3
